US07582753B2
To a cold solution of triphosgene (1.2 g, 4 mmol) in toluene (10 mL) was added slowly a solution of (2-amino-phenyl)-cyclohexyl-methanone (2.4 g) and triethylamine (3.3 ml) in toluene (16 mL). The mixture was then warmed up to 20-23° C. and aged for a period of about 1 hr under stirring. The resulting slurry was then added slowly to a warm (60° C.) mixture of ethyl hydrazine-acetate hydrochloride (1.8 g) and triethylamine (1.4 g) in toluene (20 mL). The reaction mixture was aged at 60° C. for about 20 m in and then heated to about 100° C. While at this temperature, trifluoroacetic acid (0.5 mL) was added and the reaction mixture was aged until the cyclization was completed (approximately 10 min). The reaction mixture was then cooled to about 20-23° C. and filtered. The filtrate was washed with 1N HCl (10 mL), water (10 mL), brine (10 mL) and then evaporated to a residue. The residue (5.2 g) was dissolved in methyl t-butyl ether (10 mL), and then heptane (˜50 mL) was slowly added. The product which precipitated out of the solution, was collected by filtration and dried to yield (5-cyclohexyl-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl)-acetic acid ethyl ester as an off-white solid.

reactant | triphosgene | 4 mmol, 1.2 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (2-amino-phenyl)-cyclohexyl-methanone | 2.4 g | NC1=C(C=CC=C1)C(=O)C1CCCCC1 | C13H17NO
reactant | ethyl hydrazine-acetate hydrochloride | 1.8 g | Cl.C(C)(=O)O.C(C)NN
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 1.4 g | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 3.3 ml | C(C)N(CC)CC | C6H15N
product | (5-cyclohexyl-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl)-acetic acid ethyl ester | C(C)OC(CN1N=C(C2=C(NC1=O)C=CC=C2)C2CCCCC2)=O | C18H23N3O3
